US04994569
A mixture of (5RS, 6SR)-2-[4-(ethylthio)phenyl]-6-phenyl-5,6-dihydro-4H-1,3-oxazin-5-ol (6.5 g) and phenylisocyanate (2.6 g) in 1,2-dichloroethane (100 cc) is heated to a temperature in the region of 80° C. for 5 hours. After being cooled, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) and the residue obtained is purified by chromatography on silica (0.063-0.2 mm; 150 g) contained in a column 3.5 cm in diameter eluting in 20-cc fractions with an ethylacetate/cyclohexane mixture (50:50 by volume). Fractions 5 to 15 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is further purified by chromatography on silica (0.063-0.2 mm; 100 g) contained in a column 3.5 cm in diameter, eluting in 25-cc fractions with a methylene chloride/methanol mixture (99:1 by volume). Fractions 10 to 18 are combined and concentrated to dryness under reduced pressure. (5RS, 6SR)-2-[4-(Ethylthio)phenyl]-6-phenyl-5-phenylcarbamoyloxy-5,6-dihydro-4H-1,3-oxazine (1.1 g), m.p. 70° C., is thereby obtained.

reactant | (5RS, 6SR)-2-[4-(ethylthio)phenyl]-6-phenyl-5,6-dihydro-4H-1,3-oxazin-5-ol | 6.5 g | C(C)SC1=CC=C(C=C1)C=1OC(C(CN1)O)C1=CC=CC=C1 | C18H19NO2S
reactant | phenylisocyanate | 2.6 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | 1,2-dichloroethane | 100 cc | ClCCCl | C2H4Cl2
product | (5RS, 6SR)-2-[4-(Ethylthio)phenyl]-6-phenyl-5-phenylcarbamoyloxy-5,6-dihydro-4H-1,3-oxazine | 1.1 g | C(C)SC1=CC=C(C=C1)C=1OC(C(CN1)OC(NC1=CC=CC=C1)=O)C1=CC=CC=C1 | C25H24N2O3S
